US08461158B2
Methanesulfonyl chloride (0.12 mL, 1.55 mmol) was added dropwise to a stirred suspension of 3-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-8-oxa-3-azabicyclo[3.2.1]octane (165 mg, 0.349 mmol) and powdered K2CO3 (434 mg, 3.15 mmol) in CH2Cl2 (5 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred for 3 days. Water was added, the phases were separated and the aqueous phase was extracted with CH2Cl2. The combined organic phases were dried (Na2SO4) and the solvent removed under vacuum. Chromatography on silica, eluting with CH2Cl2/MeOH (99:1), followed by recrystallization from CH2Cl2/MeOH gave 170 mg (89% yield) of 3-{4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-[4-(methylsulfonyl)-1-piperazinyl]-1,3,5-triazin-2-yl}-8-oxa-3-azabicyclo[3.2.1]octane: mp (CH2Cl2/MeOH) 312-314° C.; 1H NMR (CDCl3) δ7.86 (dd, J=8.4, 0.6 Hz, 1H), 7.45 (t, JHF=53.6 Hz, 1H), 7.36 (t, J=8.2 Hz, 1H), 6.82 (d, J=7.8 Hz, 1H), 4.49 (br s, 2H), 4.32 (d, J=13.2 Hz, 2H), 4.05 (s, 3H), 4.02 (br s, 4H), 3.30 (m, 6H), 2.81 (s, 3H), 1.99 (m, 2H), 1.79 (m, 2H); Anal. Calcd. for C23H28F2N8O4S: C, 50.2; H, 5.1; N, 20.35. Found: C, 50.3; H, 5.1; N, 20.5.

reactant | Methanesulfonyl chloride | 1.55 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-8-oxa-3-azabicyclo[3.2.1]octane | 0.349 mmol, 165 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCNCC1)N1CC3CCC(C1)O3)C=CC=C2OC)F | C22H26F2N8O2
reactant | K2CO3 | 3.15 mmol, 434 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-[4-(methylsulfonyl)-1-piperazinyl]-1,3,5-triazin-2-yl}-8-oxa-3-azabicyclo[3.2.1]octane | 170 mg, 89% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCN(CC1)S(=O)(=O)C)N1CC3CCC(C1)O3)C=CC=C2OC)F | C23H28F2N8O4S
